US06194406B1
Alternately, combine 1-carbobenzyloxy-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine (1.23 g, 2.06 mmol) in ethanol (20 mL). Add 10% palladium-on-carbon (0.2 g) and palladium hydroxide (0.2 g). Hydrogenate on a pressure apparatus at 50 psi. After 72 hours, remove the catalyst by filtration, and evaporate in vacuo to give a residue. Combine the residue and dichloromethane (50 mL). Add a solution of hydrochloric acid an dioxane (1.01 mL, 4 M, 4.0 mmol) and stir. After 3 hours, add dither ether (180 mL) to give a solid. Collect the solid by filtration and dry to give 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt: mp; 117-126° C.

reactant | 1-carbobenzyloxy-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | 2.06 mmol, 1.23 g | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)(C1=CC=CC=C1)CCN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C36H45N5O3
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 4.0 mmol, 4 M, 1.01 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.2 g | [Pd] | Pd
catalyst | palladium hydroxide | 0.2 g | [OH-].[Pd+2].[OH-]
solvent | ether | 180 mL | CCOCC | C4H10O
product | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2 | InChI=1S/C28H39N5O.ClH/c1-2-34-22-21-33-26-12-7-6-11-25(26)30-27(33)32-17-8-16-31(19-20-32)18-14-28(13-15-29-23-28)24-9-4-3-5-10-24;/h3-7,9-12,29H,2,8,13-23H2,1H3;1H
